US05866724
Into a 2 liter four-necked flask were charged 136.19 g of 2,3,5-trimethylphenol, 48.0 g of sodium hydroxide and 480 g of water. While stirring at 40° C., 486.91 g of 37% formaldehyde was added dropwise thereto over one hour, and the reaction was conducted for 3 more hours. After completion of the reaction, 180.15 g of 90% aqueous acetic acid solution was added for neutralization, then the mixture was cooled to25° C. and filtered. The filtrate was extracted with 1000 g of ethylacetate and the ethyl acetate layer was washed with water and concentrated.To the concentrated mass, 500 g of toluene was added and the mixture was cooled to 20° C. and filtered. The filter cake thus obtained was rinsed with 400 g of toluene and dried a whole day and night at 45°C. under reduced pressure to obtain 100 g of 2,4-bis(hydroxymethyl)-3,5,6-trimethylphenol.

reactant | 2,3,5-trimethylphenol | 136.19 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | sodium hydroxide | 48.0 g | [OH-].[Na+]
reactant | water | 480 g | O | H2O
reactant | formaldehyde | 486.91 g | C=O | CH2O
reactant | acetic acid | 180.15 g | C(C)(=O)O | C2H4O2
product | 2,4-bis(hydroxymethyl)-3,5,6-trimethylphenol | 100 g | OCC1=C(C(=C(C(=C1C)CO)C)C)O | C11H16O3
